US07709468B2
Step C: 8-Cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine
Into a flask were added 8-cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine (5.84 g, 21.8 mmol), 4-iodo-2-(methylthio)pyrimidine (Frontier, 8.27 g, 32.8 mmol), Cs2CO3 (10.7 g, 32.8 mmol), PPh3 (2.29 g, 8.73 mmol), and DMF (50 mL). The mixture was degassed by bubbling Ar through it for about 5 min, before being charged with Pd(OAc)2 (0.981 g, 4.37 mmol) and heated at about 100° C. for about 18 h. The reaction was cooled to ambient temperature, the solvent was removed in vacuo, and the residue taken up in DCM and water. After filtration through a pad of Celite®, the organic layer was separated and the aqueous layer extracted about five more times with DCM, filtering through Celite® in every extraction step to break emulsions. The combined organic phase was dried over Na2SO4 and concentrated. The crude material was purified by silica gel chromatography with heptane/EtOAc (gradient 20-80% EtOAc). After concentration, the residue was twice re-dissolved in DCM and re-concentrated to give 5.16 g (60%) of the title compound as a greenish solid: LC/MS (Table 1, Method g) Rt=3.43 min; MS m/z: 392.2 (M+H)+.

reactant | 8-cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine | 21.8 mmol, 5.84 g | C1(CC1)CC=1C=2N(C=CN1)C=C(N2)C2=CC=C(C=C2)F | C16H14FN3
reactant | 4-iodo-2-(methylthio)pyrimidine | 32.8 mmol, 8.27 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | Cs2CO3 | 32.8 mmol, 10.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | PPh3 | 8.73 mmol, 2.29 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
catalyst | Pd(OAc)2 | 4.37 mmol, 0.981 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 8-Cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine | 5.16 g, 60% | C1(CC1)CC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)SC | C21H18FN5S
